US04304770
Conc. hydrochloric acid (0.85 g.) was added under ice-cooling to a stirred solution of 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.3 g.) in a mixture of methanol (23 ml.) and tetrahydrofuran (23 ml.), and the mixture was stirred for 2.5 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate (pH 7.0). The aqueous solution was washed with ethyl acetate and adjusted to pH 3.5 with conc. hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give powder of 7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.865 g.).

reactant | hydrochloric acid | 0.85 g | Cl | ClH
reactant | 7-[2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.3 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N7O6S4
solvent | methanol | 23 ml | CO | CH4O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | 7-[2-ethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.865 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C17H17N7O5S4
